US05382670
6-Bromoindole (3.84 g, 19.6 mmol) was dissolved in triethylamine (40 ml.). A catalytic amount of phenothiazine was added, and the solution was degassed by bubbling argon through it. Phenylacetylene (8.60 mL, 78.3 mmol) was added via syringe. Bis(triphenylphosphine)palladium(II) chloride (0.69 g, 0.98 mmol) was added, and the reaction mixture was heated at 75°-85° C. for 5 hours. The reaction mixture was cooled to ambient temperature and filtered. The filtrate was concentrated in vacuo. The crude material was purified by chromatography on silica gel to give 6-phenylethynylindole (2.55 g, 60%).

reactant | 6-Bromoindole | 19.6 mmol, 3.84 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | Phenylacetylene | 78.3 mmol, 8.60 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.98 mmol, 0.69 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-phenylethynylindole | 2.55 g, 60% | C1(=CC=CC=C1)C#CC1=CC=C2C=CNC2=C1 | C16H11N
